### PR TITLE
[Merged by Bors] - feat(Tactic/FunProp): always discharge assumptions from local context

### PR DESCRIPTION
**Pull request by mcdoll**
Implements `with_reducible assumption` as the default discharger for `fun_prop`. The makes `fun_prop` more useful for properties that are valid on subsets, such as `ContinuousOn` and `IntegrableOn`, since theorems about these properties tend to have sidegoals, which usually are in the local context already.
We only run `assumption` at reducible transparency to avoid any expensive defeq checks.

Done at ICERM workshop "Techniques and Tools for the Formalization of Analysis"

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
The implementation looks good to me. Can you expand the PR description a bit to say *why* this is a good change ("makes fun_prop more powerful" --- fine, I guess; anything in particular?) and safe to do? This is exactly the question I'd ask myself two months later :-)

**Comment by grunweg** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/6b7d0a67eaea673e35ce0e8fb805ea52d10a36e6?reference=816c6385c237d331828882f9878e5ebfc65e10e3) for 6b7d0a67eaea673e35ce0e8fb805ea52d10a36e6 against 816c6385c237d331828882f9878e5ebfc65e10e3 are in. No significant results found. @grunweg

- ✅ `build//instructions`: **-18.4G** (**-0.01%**)

**Small changes (1✅, 1🟥)**

- ✅ `build/module/Mathlib.MeasureTheory.Integral.Bochner.Basic//instructions`: **-1.6G** (**-1.85%**)
- 🟥 `build/module/Mathlib.Topology.IndicatorConstPointwise//instructions`: **+333.6M** (**+4.25%**)

**Comment by mcdoll** [comment]
Yes, I expanded the message and I will update some the docstring of `fun_prop` as well in a bit. As you see from the diff, `assumption` is a very common discharger (I haven't counted, but it felt like it was the majority of all `fun_prop (disch := ` search results, followed by `simp` and `aesop`) and it will be more important for using `fun_prop` for `IntegrableOn`. Floris suggested that it should only check at reducible transparency for avoiding any performance issues.

File: Mathlib/Tactic/FunProp.lean [hunk 1]
```diff
@@ -37,8 +37,10 @@ checks if every single elementary function is, e.g., `Continuous`.
 For `ContinuousAt/On/Within` variants, one has to specify a tactic to solve potential side goals
```
Comment (grunweg) [inline Mathlib/Tactic/FunProp.lean]: Should this be weakened now:
```suggestion
For `ContinuousAt/On/Within` variants, one may have to specify a tactic to solve potential side goals
```
and keep the old example without the discharger, to demonstrate that it is optional?

File: Mathlib/Tactic/FunProp.lean [hunk 2]
```diff
@@ -37,8 +37,10 @@ checks if every single elementary function is, e.g., `Continuous`.
...
 with `disch := <tactic>`. For example:
 ```lean
-example (y : ℝ) (hy : y ≠ 0) : ContinuousAt (fun x : ℝ ↦ 1/x) y := by fun_prop (disch := assumption)
+example (y : ℝ) (hy : y ≠ 0) : ContinuousAt (fun x => x * (Real.log x) ^ 2 - Real.exp x / x) y := by
+  fun_prop (disch := aesop)
 ```
+Note that `fun_prop` discharges hypothesis from the local context automatically.
```
Comment (grunweg) [inline Mathlib/Tactic/FunProp.lean]:
```suggestion
Note that `fun_prop` discharges hypotheses from the local context automatically.
```

**Review by grunweg — COMMENTED** [review]
Thanks, I like the new documentation a lot. One nit; otherwise I'd be happy merging this (assuming you don't want to make further changes).

**Comment by mcdoll** [comment]
Thanks, these are very good suggestions

**Comment by JovanGerb** [comment]
Looks good to me. There is only one thing that I found surprising, which is that `with_reducible assumption` is always run, even if you gave it another discharger. This might be good, but it's misleading to call it the "default discharger", because that implies that it is overwritten when using a different discharger.

**Comment by mcdoll** [comment]
I guess there two different points here: what is the right behaviour and the documentation. I have a slight preference to always run assumption, but if you have good arguments against it, I am all ears.
If we decide to keep it the current way, then you have a good point that it should be written as "assumptions in the local context are always discharged"

File: Mathlib/Tactic/FunProp/Elab.lean [hunk 3]
```diff
@@ -58,10 +59,10 @@ syntax (name := funPropTacStx)
   "fun_prop" optConfig (discharger)? (" [" withoutPosition(ident,*,?) "]")? : tactic
 
 private def emptyDischarge : Expr → MetaM (Option Expr) :=
-  fun e =>
-    withTraceNode `Meta.Tactic.fun_prop
-      (fun _ => do pure s!"discharging: {← ppExpr e}") do
-      pure none
+  fun e => do tacticToDischarge (← `(tactic| skip)) e
```
Comment (fpvandoorn) [inline Mathlib/Tactic/FunProp/Elab.lean]: Is `emptyDischarge` still used anywhere?

Comment (mcdoll) [reply Mathlib/Tactic/FunProp/Elab.lean]: no, deleted

**Review by joneugster — APPROVED** [review]
Thank you for the PR!

Looks like previous comments have been addressed. Choosing to always run the assumption discharger seems to be a reasonable choice and seems to be documented clearly now. 

I suggest

maintainer merge

**Comment by fpvandoorn** [comment]
LGTM

bors merge
